US05571833
A solution of 3-cyanomethyl-4-chloro-5-benzyloxyindole (1.00 g, 3.37 mmol) in methanolic ammonia (30 ml) was hydrogenated over Raney nickel for 21/2 hours at room temperature, at 30 p.s.i. pressure. After filtering off the catalyst, the filtrate was evaporated to give 3-(2-aminoethyl)-4-chloro-5-benzyloxyindole as an oil (1.05 g, 100%). Part of this product (170 mg, 0.57 mmol) was treated with excess ethereal HCl, and the mixture was evaporated to dryness to leave a pink solid, which was recrystallised from ethanol/ether to give 3-(2-amino-ethyl)-4-chloro-5-benzyloxyindole hydrochloride (108 mg) m.p. 224°-5° C.

reactant | 3-cyanomethyl-4-chloro-5-benzyloxyindole | 3.37 mmol, 1.00 g | C(#N)CC1=CNC2=CC=C(C(=C12)Cl)OCC1=CC=CC=C1 | C17H13ClN2O
solvent | ammonia | 30 ml | N | H3N
catalyst | Raney nickel | [Ni] | Ni
product | 3-(2-aminoethyl)-4-chloro-5-benzyloxyindole | 1.05 g, 100% | NCCC1=CNC2=CC=C(C(=C12)Cl)OCC1=CC=CC=C1 | C17H17ClN2O
